US08664230B2
To a solution of 2,4-difluorobenzoyl chloride (0.33 g, 1.591 mmol) in CHCl3 (15.9 ml) were slowly added TEA (0.443 ml, 3.18 mmol) and 5-bromo-2-chloropyridin-3-amine (0.337 g, 1.91 mmol) at 0° C. The reaction mixture was stirred for 5 hours at room temperature. The reaction mixture was quenched with saturated aq. NaHCO3, and extracted with DCM (2×50 mL). The combined organic layers were washed brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. The residue was purified by column chromatography on SiO2 (Hex:EtOAc=30:1) to give N-(5-bromo-2-chloropyridin-3-yl)-2,4-difluorobenzamide (0.185 g, 34%) as a white solid. 1H-NMR (CDCl3, Varian 400 MHz) δ 6.93-7.26 (2H, m), 8.21-8.27 (2H, m), 9.08-9.12 (1H, m), 9.16-9.16 (1H, m).

reactant | 2,4-difluorobenzoyl chloride | 1.591 mmol, 0.33 g | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | 5-bromo-2-chloropyridin-3-amine | 1.91 mmol, 0.337 g | BrC=1C=C(C(=NC1)Cl)N | C5H4BrClN2
solvent | CHCl3 | 15.9 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(5-bromo-2-chloropyridin-3-yl)-2,4-difluorobenzamide | 0.185 g, 34% | BrC=1C=C(C(=NC1)Cl)NC(C1=C(C=C(C=C1)F)F)=O | C12H6BrClF2N2O
